US09403846B2
Step 7. Synthesis of rel-(3aR,5S)-5-(cyclopropylmethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C69)
An aqueous solution of sodium hypochlorite (6.15% solution, 100 mL, 78.6 mmol) was added drop-wise to a solution of (1E)-2-[(1-cyclopropylpent-4-en-2-yl)oxy]-N-hydroxyethanimine (C68) (10 g, 55 mmol) and triethylamine (0.47 mL, 3.4 mmol) in dichloromethane (200 mL) that was immersed in a room temperature water bath. The rate of addition was adjusted to maintain the internal temperature of the reaction between 19.5° C. and 22.8° C. After completion of the addition, the reaction mixture was diluted with water (50 mL) and the aqueous layer was extracted with dichloromethane (3×50 mL). The combined organic layers were washed with saturated aqueous sodium chloride solution (50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Silica gel chromatography (Gradient: 0% to 20% ethyl acetate in petroleum ether) provided the product as a yellow oil. Yield: 3.8 g, 21 mmol, 39%. The indicated relative stereochemistry of compound C69 was assigned based on nuclear Overhauser enhancement studies, which revealed an interaction between the methine protons on carbons 3a and 5. LCMS m/z 182 [M+H+]. 1H NMR (400 MHz, CDCl3) δ 4.69 (d, J=13.6 Hz, 1H), 4.62 (dd, J=10.0, 8.0 Hz, 1H), 4.19 (d, J=12.8 Hz, 1H), 3.73-3.80 (m, 1H), 3.54-3.58 (m, 1H), 3.47-3.40 (m, 1H), 2.30 (dd, J=12.8, 6.4 Hz, 1H), 1.64 (quintet, J=6.8 Hz, 1H), 1.49 (q, J=11.7 Hz, 1H), 1.20-1.29 (m, 1H), 0.75-0.79 (m, 1H), 0.44-0.51 (m, 2H), 0.03-0.11 (m, 2H).

reactant | sodium hypochlorite | 78.6 mmol, 100 mL | Cl[O-].[Na+]
reactant | (1E)-2-[(1-cyclopropylpent-4-en-2-yl)oxy]-N-hydroxyethanimine | 55 mmol, 10 g | C1(CC1)CC(CC=C)OC\C=N\O | C10H17NO2
reactant | triethylamine | 3.4 mmol, 0.47 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | rel-(3aR,5S)-5-(cyclopropylmethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C1(CC1)C[C@H]1C[C@@H]2C(=NOC2)CO1 | C10H15NO2
